US04032525
A solution of 103 g. of 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester in 400 ml. of tetrahydrofuran is added dropwise at reflux over a period of 30 minutes to a solution of 16.2 g. of lithium borohydride in 280 ml. of absolute tetrahydrofuran. The mixture is then cooled to 0° C. and slowly added dropwise to 400 ml. of 3-N aqueous hydrochloric acid. After the addition of 500 ml. of water, the mixture is extracted twice with ether. After evaporation of the ether, there is obtained 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzyl alcohol in the form of an oil.

reactant | 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Cl)OC1=CC(=CC=C1)C(F)(F)F)=O | C15H10ClF3O3
reactant | lithium borohydride | [BH4-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzyl alcohol | ClC1=CC(=C(CO)C=C1)OC1=CC(=CC=C1)C(F)(F)F | C14H10ClF3O2
